US08791100B2
1-{3-[(R)-1-(4-Chloro-3-methyl-phenyl)-propylamino]-2-fluoro-benzyl}-azetidine-3-carboxylic acid
The title compound was prepared according to Scheme 3 following a procedure analogous to steps 3 to 6 of Example 21 using 3-bromo-2-fluoro-benzaldehyde in step 3, (R)-1-(4-chloro-3-methyl-phenyl)-propylamine hydrochloride in step 4 and azetidine-3-carboxylic acid in step 6.

reactant | 3-bromo-2-fluoro-benzaldehyde | BrC=1C(=C(C=O)C=CC1)F | C7H4BrFO
reactant | (R)-1-(4-chloro-3-methyl-phenyl)-propylamine hydrochloride | Cl.ClC1=C(C=C(C=C1)[C@@H](CC)N)C
reactant | azetidine-3-carboxylic acid | N1CC(C1)C(=O)O | C4H7NO2
product | 1-{3-[(R)-1-(4-Chloro-3-methyl-phenyl)-propylamino]-2-fluoro-benzyl}-azetidine-3-carboxylic acid | ClC1=C(C=C(C=C1)[C@@H](CC)NC=1C(=C(CN2CC(C2)C(=O)O)C=CC1)F)C | C21H24ClFN2O2
